US07332614B2
Preparation of 1-[(3-cyclopentyl-1-methyl-2-pyridin-2-yl-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid methyl ester
To a solution of i-PrMgCl in THF (10 mL, 20 mmol) was added 2-bromopyridine (1.93 g, 20.2 mmol) at room temperature in one portion. The mixture was stirred at 35° C. for 0.5 h. To the deep-red solution was added ZnBr2 (4.50 g, 20 mmol) under argon and the resulting mixture was stirred at 70° C. for 0.5 h to obtain a thick white slurry. 1-Methyl-2-pyrrolidinone (20 mL) was added and followed by methyl benzoate (2.5 mL, 20 mmol). The mixture was stirred at 70° C. for 0.5 h. The mixture was cooled to room temperature. Palladium acetate (56.1 mg, 0.25 mmol), 2-dicyclohexylphosphinobiphenyl (350.5 mg, 1 mmol) and 1-[(2-chloro-3-cyclopentyl-1-methyl-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid methyl ester (1.944 g, 5 mmol) were added. The mixture was stirred at 90° C. until no starting material was left (˜4 h) as monitored by HPLC. The ratio of the coupling product and the starting material was estimated to be 78/22 by HPLC.

reactant | i-PrMgCl | C(C)(C)[Mg]Cl
reactant | THF | 20 mmol, 10 mL | C1CCOC1 | C4H8O
reactant | 2-bromopyridine | 20.2 mmol, 1.93 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | methyl benzoate | 20 mmol, 2.5 mL | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | 2-dicyclohexylphosphinobiphenyl | 1 mmol, 350.5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | 1-[(2-chloro-3-cyclopentyl-1-methyl-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid methyl ester | 5 mmol, 1.944 g | COC(=O)C1(CCC1)NC(=O)C1=CC=C2C(=C(N(C2=C1)C)Cl)C1CCCC1 | C21H25ClN2O3
catalyst | ZnBr2 | 20 mmol, 4.50 g | [Zn+2].[Br-].[Br-]
catalyst | Palladium acetate | 0.25 mmol, 56.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1-Methyl-2-pyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | 1-[(3-cyclopentyl-1-methyl-2-pyridin-2-yl-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid methyl ester | COC(=O)C1(CCC1)NC(=O)C1=CC=C2C(=C(N(C2=C1)C)C1=NC=CC=C1)C1CCCC1 | C26H29N3O3
